US06255323B1
N-[2-(4-Benzhydryl-piperazin-1-yl)-ethyl]-N′-cyano-N″-pyridin-4-yl-guanidine (SBR-11-4408) was synthesized as follows
N-cyano-N′-(2-piperazin-1-yl-ethyl)-N″-pyridin-4-yl-guanidine (273 mg, 1 mmol) (prepared using the procedure described in Example 7) and bromodiphenylmethane (247 mg, 1 mmol) was dissolved in dimethylformamide (1.5 mL), followed by the addition of triethylamine (0.21 mL, 1.5 mmol). The reaction solution was stirred at room temperature under nitrogen for 10-15 hours and then diluted with 100 mL ethyl acetate. The organic layer was washed with water (3×30 mL) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give crude title product. The final product was further purified by flash column chromatography (SiO2, 10% MeOH in EtOAc). The pure product was obtained in 50% yield in two steps. 1H-NMR (CD3OD, ppm): 8.36 (d, 2H), 7.18-7.43 (m, 12H), 4.29 (s, 1H), 3.46 (t, 2H), 2.45-2.61 (m, 10H). ESMS 440.4 (M+1), 462.4 (M+23).

reactant | N-cyano-N′-(2-piperazin-1-yl-ethyl)-N″-pyridin-4-yl-guanidine | 1 mmol, 273 mg | C(#N)NC(=NC1=CC=NC=C1)NCCN1CCNCC1 | C13H19N7
reactant | bromodiphenylmethane | 1 mmol, 247 mg | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | triethylamine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[2-(4-Benzhydryl-piperazin-1-yl)-ethyl]-N′-cyano-N″-pyridin-4-yl-guanidine | 50% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCNC(=NC1=CC=NC=C1)NC#N | C26H29N7
